US06667316B1
A stirred mixture of 2-[1-(3,4-dimethoxyphenyl)-2-(methylsulfonyl)ethyl]-4-aminoisoindoline-1,3-dione (0.68 g, 1.7 mmol) and cyclopropane carbonyl chloride (1.3 mL) was heated to reflux for 25 min. To the mixture was added ethanol (10 mL) at 0° C. and kept for 30 min. The solvent was removed in vacuo to give a oil. The oil was stirred in ether (20 mL) for 30 min to give a suspension. The suspension was filtered and the solid washed with ether to give a white solid. The solid was purified by column chromatography (Silica Gel, 10% ethyl acetate in methylene chloride) to give cyclopropyl-N-{2-[1-(3,4-dimethoxyphenyl)-2-(methylsulfonyl)ethyl]-1,3-dioxoisoindolin-4-yl}carboxamide as a white solid (330 mg, 42% yield); mp, 130-132° C.; 1H NMR (CDCl3) δ0.92-0.98 (m, 2H, 2CHH), 1.09-1.14 (m, 2H, 2CHH), 1.61-1.64 (m, 1H, CH), 2.88 (s, 3H, CH3), 3.73 (dd, J=4.4, 14.3 Hz, 1H, CHH), 3.86 (s, 3H, CH3), 3.90 (s, 3H, CH3), 4.58 (dd, J=10.4, 14.3 Hz, 1H, CHH), 5.90 (dd, J=4.4, 10.3 Hz, 1H, NCH), 6.84 (d, J=8 Hz, 1H, Ar), 7.09-7.14 (m, 2H, Ar), 7.47 (d, J=7.2 Hz, 1H, Ar), 7.65 (t, J=7.6 Hz, 1H, Ar), 8.75 (d, J=8.4 Hz, 1H, Ar), 9.68 (s, 1H, NH); 13C NMR (CDCl3) δ6.75, 16.13, 41.54, 48.43, 54.36, 55.81, 55.94, 110.98, 111.11, 114.78, 117.88, 120.27, 124.93, 129.30, 130.94, 136.00, 137.68, 149.19, 149.35, 167.45, 169.48, 172.79; Anal Calcd for C23H24N2O7S: C, 58.46; H, 5.12; N, 5.93. Found: C, 58.10; H, 5.16; N, 5.78.

reactant | 2-[1-(3,4-dimethoxyphenyl)-2-(methylsulfonyl)ethyl]-4-aminoisoindoline-1,3-dione | 1.7 mmol, 0.68 g | COC=1C=C(C=CC1OC)C(CS(=O)(=O)C)N1C(C2=CC=CC(=C2C1=O)N)=O | C19H20N2O6S
reactant | cyclopropane carbonyl chloride | 1.3 mL | C1(CC1)C(=O)Cl | C4H5ClO
reactant | ethanol | 10 mL | C(C)O | C2H6O
solvent | ether | 20 mL | CCOCC | C4H10O
product | cyclopropyl-N-{2-[1-(3,4-dimethoxyphenyl)-2-(methylsulfonyl)ethyl]-1,3-dioxoisoindolin-4-yl}carboxamide | 330 mg, 42% yield | C1(CC1)C(=O)NC1=C2C(N(C(C2=CC=C1)=O)C(CS(=O)(=O)C)C1=CC(=C(C=C1)OC)OC)=O | C23H24N2O7S
